US07173048B2
To 2.5 mL (19.1 mmol) of 2-methyl-2,3-dihydro-1H-indole were added 2.1 mL (19.1 mmol) of hexafluoroacetone sesquihydrate dropwise at 0° C. After stirring at 80° C. for 12 hrs, the mixture was distributed between Et2O and a saturated aqueous solution of NH4Cl. The combined organic phases were dried over Na2SO4 and evaporated. Column chromatography on silica gel with n-heptane/EtOAc 4:1 yielded 1.41 g (25%) of 1,1,1,3,3,3-hexafluoro-2-(2-methyl-2,3-dihydro-1H-indol-5-yl)-propan-2-ol, off-white solid, MS: 300 (MH+).

reactant | 2-methyl-2,3-dihydro-1H-indole | 19.1 mmol, 2.5 mL | CC1NC2=CC=CC=C2C1 | C9H11N
reactant | hexafluoroacetone sesquihydrate | 19.1 mmol, 2.1 mL | O.FC(C(=O)C(F)(F)F)(F)F.O.O.FC(C(=O)C(F)(F)F)(F)F
reactant | NH4Cl | [NH4+].[Cl-]
solvent | Et2O | CCOCC | C4H10O
product | 1,1,1,3,3,3-hexafluoro-2-(2-methyl-2,3-dihydro-1H-indol-5-yl)-propan-2-ol | 1.41 g, 25% | FC(C(C(F)(F)F)(O)C=1C=C2CC(NC2=CC1)C)(F)F | C12H11F6NO
